US07645789B2
tert-Butyl 2-(2-ethoxy-2-oxoethyl)-1H-indole-1-carboxylate (3.0 g, 9.9 mmol) was added to anhydrous THF (29 mL) and cooled to −78° C. A 0.5M solution of potassium hexamethyldisilazane (20 mL, 9.9 mmol) was added slowly such that the internal temperature stayed below −60° C. Stirring was continued for 1 h at −78° C. Methyl iodide (727 μL, 11.7 mmol) was added to the mixture. The mixture was stirred for 30 minutes at room temperature. The mixture was quenched with sat. aq. ammonium chloride and partitioned between water and dichloromethane. The aqueous phase was extracted with dichloromethane and the combined organic phases were dried over Na2SO4 and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (ethylacetate/hexane=1/9) to give tert-butyl 2-(1-ethoxy-1-oxopropan-2-yl)-1H-indole-1-carboxylate (2.8 g, 88%).

reactant | tert-Butyl 2-(2-ethoxy-2-oxoethyl)-1H-indole-1-carboxylate | 9.9 mmol, 3.0 g | C(C)OC(CC=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C)=O | C17H21NO4
reactant | potassium hexamethyldisilazane | 9.9 mmol, 20 mL | C[Si](N[Si](C)(C)C)(C)C.[K]
reactant | Methyl iodide | 11.7 mmol, 727 μL | CI | CH3I
solvent | THF | 29 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(1-ethoxy-1-oxopropan-2-yl)-1H-indole-1-carboxylate | 2.8 g, 88% | C(C)OC(C(C)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C)=O | C18H23NO4
